********************
* Version 1.0.0a
.SUBCKT MRF5711 100 200 300 
LCL1 100 101 1.7E-10 
LCL2 101 102 1.7E-10 
LCL3 102 199 1.7E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.8E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 XMRF5711 
.ENDS
********************
.SUBCKT XMRF5711 1 2 3 
CBPAD 2 1 5E-14 
CEPAD 1 3 5E-14 
Q1 1 2 3 DMRF5711 
.ENDS
********************
.MODEL DMRF5711 NPN 
+ IS = 1.463E-15 
+ BF = 142 
+ NF = 0.9938 
+ VAF = 30 
+ IKF = 0.7 
+ ISE = 8.968E-14 
+ NE = 1.998 
+ BR = 18.91 
+ NR = 0.9936 
+ VAR = 2.5 
+ IKR = 0.08659 
+ ISC = 9.806E-16 
+ NC = 1.1 
+ RB = 2.4 
+ IRB = 0.0001 
+ RBM = 2.5 
+ RE = 0.26 
+ RC = 1 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.9E-12 
+ VJE = 0.96 
+ MJE = 0.447 
+ CJC = 1.8E-12 
+ VJC = 0.665 
+ MJC = 0.409 
+ XCJC = 0.4 
+ TF = 1.35E-11 
+ XTF = 500 
+ VTF = 0.8 
+ ITF = 1.3 
+ PTF = 50 
+ TR = 1E-09 
+ FC = 0.6 
********************

